US05393758
A mixture of 0.5 g (1.8 mmol) of 1-cyclopropyl-6-fluoro-7-chloro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 0.34 g (2.1 mmol) of 3-methyl-3-aminoazetidine hydrochloride and 0.5 ml of triethylamine in 10 ml of pyridine is heated to reflux for 3 hours. The mixture is allowed to cool and is filtered and the product is washed with water. 0.52 g of 1-cyclopropyl-6-fluoro-7-(3-amino-3-methyl-1-azetidinyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, melting point 285°-7° C., is thereby obtained.

reactant | 1-cyclopropyl-6-fluoro-7-chloro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.8 mmol, 0.5 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C12H8ClFN2O3
reactant | 3-methyl-3-aminoazetidine hydrochloride | 2.1 mmol, 0.34 g | Cl.CC1(CNC1)N
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-6-fluoro-7-(3-amino-3-methyl-1-azetidinyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.52 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC(C1)(C)N)F)=O)C(=O)O | C16H17FN4O3
